US06130255
7.9 g of 2-(1-hydroxyisopropyl)-5-methyl-cyclopentanol was added dropwise to 100 ml of a dichloromethane suspension containing 16.2 g pyridinium chlorochromate and the mixture was stirred for 5 hours at room temperature. The reaction solution was admixed with diethylether and stirred. Then, the chromate was filtered out and the filtrate was condensed under a vacuum. The residue was purified by means of silica gel column chromatography (eluent: hexane/ethylacetate=7/3) and 6.6 g of 2-(1-hydroxyisopropyl)-5-methyl-cyclopentanone was obtained as an oily substance (yield: 86%).

reactant | 2-(1-hydroxyisopropyl)-5-methyl-cyclopentanol | 7.9 g | OC(C)(C)C1C(C(CC1)C)O | C9H18O2
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
reactant | pyridinium chlorochromate | 16.2 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | diethylether | C(C)OCC | C4H10O
product | 2-(1-hydroxyisopropyl)-5-methyl-cyclopentanone | 6.6 g, yield: 86% | OC(C)(C)C1C(C(CC1)C)=O | C9H16O2
